US08609660B2
Hydrazine hydrate (2.48 mL, 51.10 mmol) was added to a solution of rac-[1-(3-bromo-phenyl)-1-methyl-2-oxo-but-3-ynyl]-carbamic acid tert-butyl ester (1.8 g, 5.11 mmol) in EtOH (30 mL) and the mixture was stirred at room temperature for 1 hour. The solvent was removed in vacuo and the residue was dissolved in DCM and washed with water. The organic layer was separated, dried (MgSO4), filtered and the solvents evaporated in vacuo. The crude product was purified by flash column chromatography (silica gel; AcOEt in DCM 0/100 to 50/50). The desired fractions were collected and concentrated in vacuo to yield rac-[1-(3-bromo-phenyl)-1-(1H-pyrazol-3-yl)-ethyl]-carbamic acid tert-butyl ester (1.62 g, 87% yield) as a white solid.

reactant | Hydrazine hydrate | 51.10 mmol, 2.48 mL | O.NN
reactant | rac-[1-(3-bromo-phenyl)-1-methyl-2-oxo-but-3-ynyl]-carbamic acid tert-butyl ester | 5.11 mmol, 1.8 g | C(C)(C)(C)OC(NC(C(C#C)=O)(C)C1=CC(=CC=C1)Br)=O | C16H18BrNO3
solvent | EtOH | 30 mL | CCO | C2H6O
product | rac-[1-(3-bromo-phenyl)-1-(1H-pyrazol-3-yl)-ethyl]-carbamic acid tert-butyl ester | 1.62 g, 87% yield | C(C)(C)(C)OC(NC(C)(C1=NNC=C1)C1=CC(=CC=C1)Br)=O | C16H20BrN3O2
